US09403847B2
Step B: 2-Ethylpyrazolo[1,5-a]pyridine-3-carboxylic acid
Ethyl 2-ethylpyrazolo[1,5-a]pyridine-3-carboxylate (5.0 g, 23 mmol) was stirred in methanol (200 mL) and a solution of sodium hydroxide in water (100 mL, 3 N) was added. The mixture was heated at 60° C. for 16 h. Evaporation gave a thick suspension which was treated with aqueous hydrogen chloride (100 mL, 3 N). The solids briefly dissolved and a new precipitate formed. The solid was filtered and washed with water to give the desired compound (4.1 g, 96%). LCMS for C10H11N2O2 (M+H)+: m/z=191.1. 1H NMR (300 MHz, DMSO-d6): δ 8.52 (m, 1 H), 8.15 (m, 1 H), 7.23 (m, 1 H), 6.81 (m, 1 H), 3.05 (m, 2 H), 1.22 (m, 3 H).

reactant | Ethyl 2-ethylpyrazolo[1,5-a]pyridine-3-carboxylate | 23 mmol, 5.0 g | C(C)C1=NN2C(C=CC=C2)=C1C(=O)OCC | C12H14N2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen chloride | 3 N, 100 mL | Cl | ClH
solvent | methanol | 200 mL | CO | CH4O
solvent | water | 3 N, 100 mL | O | H2O
product | 2-Ethylpyrazolo[1,5-a]pyridine-3-carboxylic acid | 4.1 g, 96% | C(C)C1=NN2C(C=CC=C2)=C1C(=O)O | C10H10N2O2
